* C:\Users\ahmetcan.akuz\Documents\GitHub\EE463_2022_Hardware_Project\Components\LM555\LM555_Astable_Mode.asc
XU1 0 N003 N006 N001 N007 N003 N002 N001 NE555
V1 N001 0 5
C1 N007 0 0.01µ
R1 N001 N002 500
R2 N003 N005 50k
C2 N003 0 0.1n
R4 N006 0 10
D1 N002 N005 1N4148
D2 N004 N002 1N4148
R3 N004 N003 80k
.model D D
.lib C:\Users\ahmetcan.akuz\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m
* t_high=ln(2)(R1+R2)C2
* t_low=ln(2)R2C
.lib NE555.sub
.backanno
.end
