* C:\Users\ahmetcan.akuz\Documents\GitHub\EE463_2022_Hardware_Project\Simulations\Gate_Driver\Gate_Driver.asc
XU1 N006 0 N003 N007 NC_01 4N25
V1 N005 0 PULSE(0 5 0 0 0 0.0004 0.001)
V2 N003 0 12
R1 N007 N002 10
R2 N007 0 10k
R3 N005 N006 500
M1 N004 N002 0 0 NMOS
V3 N001 0 12
D1 N004 N001 D
R4 N001 N004 10
D2 0 N004 D
C1 N003 0 100µ
C2 N003 0 100n
.model D D
.lib C:\Users\ahmetcan.akuz\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ahmetcan.akuz\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0.5
.lib 4N25.sub
.backanno
.end
